US07410971B2
4-[4-[2-(3,3,5,5-Tetramethylcyclohexyl)phenyl]piperazin-1-yl]butan-2-ol hydrochloride
To a mixture of 4-[4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazin-1-yl]butan-2-one (138 mg, 0.372 mmol) produced in (Example 110) and methanol (1.5 mL) was gradually added sodium borohydride (14.1 mg, 0.372 mmol) at an external temperature of room temperature, followed by stirring for 2 hours under the same conditions. Aqueous solution of ammonium chloride was added to the reaction mixture, and stirring was continued for 20 minutes. After making the mixture basic with aqueous solution of potassium carbonate, extraction was performed with ethyl acetate. The separated organic layer was concentrated under reduced pressure to give a residue, which was purified by NH silica gel column chromatography (ethyl acetate/heptane) to give 136 mg of the free form of the title compound as a colorless oil. The free from of the title compound (19 mg, 0.051 mmol) was dissolved in a mixed solvent of ethyl alcohol and ethyl acetate, and then a 4N solution of hydrogen chloride in ethyl acetate (0.014 mL, 0.056 mmol) was added. The mixed solution was concentrated under reduced pressure and the resulting solid residue was washed with a diethyl ether-heptane mixed solvent and then dried under reduced pressure to give 21 mg of the title compound as a colorless solid.

reactant | 4-[4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazin-1-yl]butan-2-one | 0.372 mmol, 138 mg | CC1(CC(CC(C1)(C)C)C1=C(C=CC=C1)N1CCN(CC1)CCC(C)=O)C | C24H38N2O
reactant | sodium borohydride | 0.372 mmol, 14.1 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 1.5 mL | CO | CH4O
product | 4-[4-[2-(3,3,5,5-Tetramethylcyclohexyl)phenyl]piperazin-1-yl]butan-2-ol hydrochloride | Cl.CC1(CC(CC(C1)(C)C)C1=C(C=CC=C1)N1CCN(CC1)CCC(C)O)C | InChI=1S/C24H40N2O.ClH/c1-19(27)10-11-25-12-14-26(15-13-25)22-9-7-6-8-21(22)20-16-23(2,3)18-24(4,5)17-20;/h6-9,19-20,27H,10-18H2,1-5H3;1H
